US08431563B2
5-((5-Bromo-2-pyridinyl)sulfonyl)-2-pyridinamine (154 mg, 0.49 mmol), bis(pinacolato)diboron (124 mg, 0.49 mmol, Sigma-Aldrich, St. Louis, Mo.), (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium (20 mg, 0.02 mmol, Strem Chemical Inc, Newburyport, Mass.), potassium acetate (144 mg, 1.47 mmol, Sigma-Aldrich, St. Louis, Mo.), and dioxane (3 mL) were added to a reaction vial. The vial was closed, purged with nitrogen for several minutes, and heated at 100° C. for 18 h. After cooling to room temperature, the reaction mixture was filtered through a pad of Celite® (diatomaceous earth) eluting with DCM. The filtrate was concentrated to yield 5-((5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl)sulfonyl)-2-pyridinamine (177 mg) as a tan solid that was used without further purification.

reactant | 5-((5-Bromo-2-pyridinyl)sulfonyl)-2-pyridinamine | 0.49 mmol, 154 mg | BrC=1C=CC(=NC1)S(=O)(=O)C=1C=CC(=NC1)N | C10H8BrN3O2S
reactant | bis(pinacolato)diboron | 0.49 mmol, 124 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.47 mmol, 144 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 5-((5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl)sulfonyl)-2-pyridinamine | 177 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)S(=O)(=O)C=1C=CC(=NC1)N)C | C16H20BN3O4S
